US07989463B2
Synthesis of {1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclopentyl}-methanol
Lithium aluminumhydride (2M solution in tetrahydrofuran, 1.0 mL) was added drop-wise to a solution of 1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclopentanecarboxylic acid (0.3 g, 0.73 mmol) prepared using a procedure as described in example 22; in anhydrous tetrahydrofuran (10 mL) at 0° C. to 5° C. After addition, the reaction mixture was warmed to a temperature in the range of 15° C. to 40° C. and stirring continued for an additional 10 hours. The reaction was quenched by addition of aqueous sodium hydroxide. The precipitated solid was filtered and washed with ethyl acetate. The combined filtrates were washed with brine, dried over Na2SO4, filtered, and concentrated. The residue was purified by column chromatography (silica gel) to afford the title compound as a white solid (0.11 g, 39% yield).

reactant | Lithium | [Li] | Li
reactant | 1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclopentanecarboxylic acid | 0.73 mmol, 0.3 g | N1(CCOCC1)C1=NC2=C(C(=N1)NC1=CC=C(C=C1)C1(CCCC1)C(=O)O)CCC2 | C23H28N4O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | {1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclopentyl}-methanol | 0.11 g, 39% yield | N1(CCOCC1)C1=NC2=C(C(=N1)NC1=CC=C(C=C1)C1(CCCC1)CO)CCC2 | C23H30N4O2
